US07241887B2
8-[3-(Trifluoro-methanesulfonyloxy)-phenyl]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester
8-(3-Hydroxy-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester (420 mg, 1.24 mmol) was dissolved in CH2Cl2 (20 mL) with triethylamine (0.294 mL, 2.11 mmol) and N-phenyltrifluoromethanesulfonimide (0.67 g, 1.87 mmol). The reaction was judged complete by TLC after 4 h, then quenched with water (20 mL). The product was extracted with CH2Cl2 (3×20 mL), washed with 1N HCl (1×20 mL), water (1×20 mL), saturated aqueous NaCl solution (1×20 mL), filtered through a silica pad (2×3 in), eluted with 50% EtOAc/hexanes and concentrated to a semi-solid (800 mg, >100%). (TLC 50% EtOAc/hexanes Rf 0.70); 1H NMR (400 MHz, CDCl3) δ 7.54 (m, 2H), 7.35 (m, 3H), 7.25 (m, 2H), 7.09 (m, 2H), 5.13 (s, 2H), 4.08 (dd, J=10.0, 2.9 Hz, 1H), 4.00 (dd, J=12.0, 2.5 Hz, 1H), 3.13 (d, J=12.4 Hz, 1H), 3.07 (d, J=12.0, 1H), 2.93 (s, 1H), 2.54 (br s, 1H), 2.47 (br s, 1H), 1.60–1.49 (m, 4H); APCI m/z 470.0 (M+1)+.

reactant | 8-(3-Hydroxy-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 1.24 mmol, 420 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)O | C21H23NO3
reactant | triethylamine | 2.11 mmol, 0.294 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 1.87 mmol, 0.67 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-[3-(Trifluoro-methanesulfonyloxy)-phenyl]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)OS(=O)(=O)C(F)(F)F | C22H22F3NO5S
